US07932250B2
1-(2-Methyl-4-nitrophenyl)-4-piperidinol
To a solution of 1.55 g (10 mmol) of 2-fluoro-5-nitrotoluene in 35 mL of N,N-dimethylformamide were added 1.01 g (10 mmol) of 4-hydroxypiperidine and 1.8 g (13 mmol) of potassium carbonate, and the mixture was stirred for 2 hours at 120° C. The reaction mixture was poured into ice and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated saline solution, and dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane/ethyl acetate=1/1) to give 1.5 g (63%) of the title compound.

reactant | 2-fluoro-5-nitrotoluene | 10 mmol, 1.55 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 4-hydroxypiperidine | 10 mmol, 1.01 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 1-(2-Methyl-4-nitrophenyl)-4-piperidinol | 1.5 g, 63% | CC1=C(C=CC(=C1)[N+](=O)[O-])N1CCC(CC1)O | C12H16N2O3
